US04294835
14.2 g of N-(1-hydroxy-2,2,2-trichloroethyl)-2-hydroxybenzamide was mixed with 100 ml of dichloromethane, 7.2 g of thionyl chloride and 0.1 g of N,N-dimethylformamide and the reaction was effected while stirring under reflux for three hours. The solvent was distilled off to obtain N-(1,2,2,2-tetrachloroethyl)-2-hydroxybenzamide (m.p.: 113°-113.5° C.). Without taking this out, 100 ml of dichloromethane and 3.8 g of iso-propyl mercaptan were added thereto and then 4.0 g of pyridine was also added dropwise. After effecting the reaction at room temperature for one hour, water was added thereto, the dichloromethane layer was separated out, dried and concentrated to obtain 16.2 g of N-(1-iso-propylthio-2,2,2-trichloroethyl)-2-hydroxybenzamide as white crystals.

reactant | N-(1-hydroxy-2,2,2-trichloroethyl)-2-hydroxybenzamide | 14.2 g | OC(C(Cl)(Cl)Cl)NC(C1=C(C=CC=C1)O)=O | C9H8Cl3NO3
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | thionyl chloride | 7.2 g | S(=O)(Cl)Cl | Cl2OS
solvent | N,N-dimethylformamide | 0.1 g | CN(C=O)C | C3H7NO
product | N-(1,2,2,2-tetrachloroethyl)-2-hydroxybenzamide | ClC(C(Cl)(Cl)Cl)NC(C1=C(C=CC=C1)O)=O | C9H7Cl4NO2
